US08791303B2
Preparation of 5-[Hydroxy-(4-methoxy-cyclohexyl)-methyl]-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone
To a solution of 3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (2 g, 8.7 mmol) in dry tetrahydrofuran (25 ml) at −78° C. is added a solution of lithium diisopropylamide (5.8 ml, 10.4 mmol, 1.8 M in hexane/THF/ethylbenzene) dropwise over 20 minutes. The resultant solution is stirred for 30 minutes at −78° C. before adding 4-methoxy-cyclohexanecarbaldehyde (1.4 g, 9.8 mmol) dissolved in tetrahydrofuran (15 ml). The reaction mixture is allowed to warm to room temperature overnight then diluted with water, acidified with 2 N HCl and extracted with ethyl acetate (3×15 ml). The combined organic extract are dried over magnesium sulfate, filtered and evaporated under reduced pressure to give an brown oil. The residue is purified by flash chromatography to 5-[Hydroxy-(4-methoxy-cyclohexyl)-methyl]-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (1.7 g).

reactant | 3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 8.7 mmol, 2 g | COC1=C(C(CC1)=O)C1=C(C=C(C=C1C)C)C | C15H18O2
reactant | lithium diisopropylamide | 10.4 mmol, 1.8 M, 5.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-methoxy-cyclohexanecarbaldehyde | 9.8 mmol, 1.4 g | COC1CCC(CC1)C=O | C8H14O2
reactant | HCl | 2 N | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-[Hydroxy-(4-methoxy-cyclohexyl)-methyl]-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | OC(C1CC(=C(C1=O)C1=C(C=C(C=C1C)C)C)OC)C1CCC(CC1)OC | C23H32O4
